US09085530B2
The synthesis of 3-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,6-dioxopiperidine
A mixture of 3-(4-nitro-1,3-dihydro-1-oxo-2H-isoindol-2-yl)-2,6-dioxopiperidine (7 g), 5% Pd/C (1.4 g) and ammonium formate (2.1 g) in methanol (35 ml) was stirred completely at room temperature for 2 hours. Pd/C was filtered and the filtrate concentrated to dry under reduced pressure. Recrystallization from heated isopropanol and washing with water gave 5.6 g of yellow crystal.

reactant | 3-(4-nitro-1,3-dihydro-1-oxo-2H-isoindol-2-yl)-2,6-dioxopiperidine | 7 g | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H11N3O5
reactant | ammonium formate | 2.1 g | C(=O)[O-].[NH4+]
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 3-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,6-dioxopiperidine | 5.6 g, yield: 89% | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H13N3O3
